
******************************************************************************* 
*                                                                             * 
* Copyright 2025 IHP PDK Authors                                              *
*                                                                             *
* Licensed under the Apache License, Version 2.0 (the "License");             *
* you may not use this file except in compliance with the License.            *
* You may obtain a copy of the License at                                     *
*                                                                             *
*     https://www.apache.org/licenses/LICENSE-2.0                             *
*                                                                             *
* Unless required by applicable law or agreed to in writing, software         *
* distributed under the License is distributed on an "AS IS" BASIS,           *
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
* See the License for the specific language governing permissions and         *
* limitations under the License.                                              *
*                                                                             *
*******************************************************************************
*                        COMMON ESD MODELS                                    *
*******************************************************************************

.include "ihp_diode_va.lib"

********************************************************

 
.subckt diodevdd_2kv VDD PAD VSS
.param DEV_A=35 DEV_P=58.08 sub_A=224.9559 sub_P=81.12 m=1

N_DIODEVDD_2KV PAD VDD diodevdd_mod area={DEV_A*1e-12} mult={m}
N_DSUB_2KV VSS VDD dsub_2kv_mod area={sub_A*1e-12} mult={m}
.ends diodevdd_2kv 
 
************************************************************

.subckt diodevdd_4kv VDD PAD VSS
.param DEV_A=70  DEV_P=116.2  sub_A=381.0339  sub_P=90.32 m= 1

N_DIODEVDD_4KV PAD VDD diodevdd_mod area={DEV_A*1e-12} mult={m}
N_DSUB_4KV VSS VDD dsub_4kv_mod area={sub_A*1e-12} mult={m}
.ends diodevdd_4kv

************************************************************

.subckt diodevss_2kv VDD PAD VSS
.param DEV_A=35  DEV_P=58.08  sub_A=224.9559  sub_P=81.12 m=1

N_DIODEVSS_2KV VSS PAD diodevss_mod area={DEV_A*1e-12} mult={m}
N_DSUB_2KV VSS VDD dsub_2kv_mod area={sub_A*1e-12} mult={m}
.ends diodevss_2kv
***********************************************************

.subckt diodevss_4kv VDD PAD VSS
.param DEV_A=70  DEV_P=116.2  sub_A=381.0339  sub_P=90.32 m=1

N_DIODEVSS_4KV VSS PAD diodevss_mod area={DEV_A*1e-12} mult={m}
N_DSUB_4KV VSS VDD dsub_4kv_mod area={sub_A*1e-12} mult={m}
.ends diodevss_4kv
***************************************************************
