// Converted from IHP SG13G2 PDK for Ngspice


//******************************************************************************* 
//*                                                                             * 
//* Copyright 2025 IHP PDK Authors                                              *
//*                                                                             *
//* Licensed under the Apache License, Version 2.0 (the "License");             *
//* you may not use this file except in compliance with the License.            *
//* You may obtain a copy of the License at                                     *
//*                                                                             *
//*     https://www.apache.org/licenses/LICENSE-2.0                             *
//*                                                                             *
//* Unless required by applicable law or agreed to in writing, software         *
//* distributed under the License is distributed on an "AS IS" BASIS,           *
//* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.    *
//* See the License for the specific language governing permissions and         *
//* limitations under the License.                                              *
//*                                                                             *
//*******************************************************************************
//*                        COMMON ESD MODELS                                    *
//*******************************************************************************

model diodevdd_mod sp_diode ( 
  tnom=27 is=4.911e-019 rs=289.6 n=1.04 isr=5.422e-015 ikf=10m cj0=8.716e-016
  m=0.3294 vj=0.6621 bv=11.81 ibv=4.744e-016 nbv=1 eg=1.11 xti=4
)
model diodevss_mod sp_diode ( 
  tnom=27 is=9.017e-019 rs=200 n=1.03 isr=3.776e-015 ikf=0.0001754 cj0=9.42e-016
  m=0.3012 vj=0.6684 bv=11.28 ibv=1e-009 nbv=1.324 eg=1.17 xti=3
)
model dsub_2kv_mod sp_diode ( 
  tnom=27 is=1.7e-016 rs=4.759 n=1 ikf=10m cj=99.77e-018 vj=0.4547 bv=10
  ibv=1e-019 xti=3 eg=1.11
)
model dsub_4kv_mod sp_diode ( 
  tnom=27 is=1.7e-016 rs=4.759 n=1 ikf=100u cj=99.77e-018 vj=0.4547 bv=10 ibv=0
  xti=3 eg=1.11
)
//********************************************************

 
subckt diodevdd_2kv(vdd pad vss)
parameters dev_a=35 dev_p=58.08 sub_a=224.9559 sub_p=81.12 m=1

diodevdd_2kv (pad vdd) diodevdd_mod  area=dev_a pj=dev_p $mfactor=m
dsub_2kv (vss vdd) dsub_2kv_mod  area=sub_a pj=sub_p $mfactor=m
ends
 
//************************************************************

subckt diodevdd_4kv(vdd pad vss)
parameters dev_a=70 dev_p=116.2 sub_a=381.0339 sub_p=90.32 m=1

diodevdd_4kv (pad vdd) diodevdd_mod  area=dev_a pj=dev_p $mfactor=m
dsub_4kv (vss vdd) dsub_4kv_mod  area=sub_a pj=sub_p $mfactor=m
ends

//************************************************************

subckt diodevss_2kv(vdd pad vss)
parameters dev_a=35 dev_p=58.08 sub_a=224.9559 sub_p=81.12 m=1

diodevss_2kv (vss pad) diodevss_mod  area=dev_a pj=dev_p $mfactor=m
dsub_2kv (vss vdd) dsub_2kv_mod  area=sub_a pj=sub_p $mfactor=m
ends
//***********************************************************

subckt diodevss_4kv(vdd pad vss)
parameters dev_a=70 dev_p=116.2 sub_a=381.0339 sub_p=90.32 m=1

diodevss_4kv (vss pad) diodevss_mod  area=dev_a pj=dev_p $mfactor=m
dsub_4kv (vss vdd) dsub_4kv_mod  area=sub_a pj=sub_p $mfactor=m
ends
//***************************************************************


